US04742063
Seven (7.0) grams of the thus obtained 2-amino-5-hexylthio-1,3,4-thiadiazole and 4.3 g of ethyl acetoacetate were mixed with 8 g of polyphosphoric acid, and the mixture was heated to 130°-150° C. and stirred for 30 minutes. After cooling, water was added to the reaction mixture, and the resulting mixture was extracted with chloroform. The organic layer was washed with a sodium hydrogen carbonate aqueous solution and water respectively, dried over anhydrous sodium sulfate. The solvent was distilled off. The residue was purified by developing on a silica gel column, and eluting with an ethylacetate/n-hexane (1:1) mixture, and thus 7.5 g of 2-hexylthio-7-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Refraction index nD20 : 1.6003. Yield 82%.

reactant | 2-amino-5-hexylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCCCCCC | C8H15N3S2
reactant | ethyl acetoacetate | 4.3 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | water | O | H2O
product | 2-hexylthio-7-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 7.5 g, Yield 82% | C(CCCCC)SC1=NN2C(=NC(=CC2=O)C)S1 | C12H17N3OS2
